US07888376B2
(S)-ethyl 4-(4-(2-(5-chloropyridin-2-yl)-2-(4-fluoro-3-(trifluoromethyl)benzamido)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)ethyl)phenyl)butanoate (11.2 mg, 0.015 mmol) was dissolved in THF (0.2 mL) and a 1N LiOH solution was added. The reaction mixture was stirred at room temperature for 3 days, then diluted with 1N HCl (0.5 mL). The aqueous layer was extracted with CH2Cl2 (3×0.5 mL). The combined organic portions were dried over Na2SO4, filtered and the solvent removed in vacuo to yield (S)-4-(4-(2-(5-chloropyridin-2-yl)-2-(4-fluoro-3-(trifluoromethyl)benzamido)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)ethyl)phenyl)butanoic acid (9.9 mg, 92% yield) as a clear film. LCMS: RT=1.55 min [M+H] 719.0 (LCMS Method 2) NMR: 400 MHz 1H (CDCl3) 9.02 ppm, 1H, s; 8.29 ppm, 1H, d, J=2.20 Hz; 7.94 ppm, 1H, m; 7.80 ppm, 1H, m; 7.67 ppm, 1H, dd, J=2.42 and 8.57 ppm, 7.13 ppm, 1H, d, J=8.79 Hz; 7.05 ppm, 2H, m; 6.84 ppm, 1H, d, J=8.79 Hz; 6.77 ppm, 2H, d, J=7.91 Hz; 6.38 ppm, 2H, J=7.91 Hz; 5.81 ppm, 1H, tt, J=2.63 and 52.73 Hz; 4.44 ppm, 1H, d, J=12.74 Hz; 3.51 ppm, 1H, d, J=12.74 Hz; 2.47 ppm, 2H, t, J=7.69 Hz; 2.22 ppm, 2H, t, J=7.25 Hz; 1.80 ppm, 2H, m.

reactant | (S)-ethyl 4-(4-(2-(5-chloropyridin-2-yl)-2-(4-fluoro-3-(trifluoromethyl)benzamido)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)ethyl)phenyl)butanoate | 0.015 mmol, 11.2 mg | ClC=1C=CC(=NC1)[C@](CC1=CC=C(C=C1)CCCC(=O)OCC)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(C1=CC(=C(C=C1)F)C(F)(F)F)=O | C35H28ClF9N2O4
reactant | LiOH | 1N | [Li+].[OH-]
solvent | THF | 0.2 mL | C1CCOC1 | C4H8O
solvent | HCl | 1N, 0.5 mL | Cl | ClH
product | (S)-4-(4-(2-(5-chloropyridin-2-yl)-2-(4-fluoro-3-(trifluoromethyl)benzamido)-2-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)ethyl)phenyl)butanoic acid | 9.9 mg, 92% yield | ClC=1C=CC(=NC1)[C@](CC1=CC=C(C=C1)CCCC(=O)O)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(C1=CC(=C(C=C1)F)C(F)(F)F)=O | C33H24ClF9N2O4
